US07795262B2
To a solution of sodium bicarbonate (15 mmol) in water (5 mL) and DCM (30 mL) at 0° C. is added chloroacetyl bromide (12 mmol), followed by immediate addition of 1-cyclobutylpiperazine (10 mmol). The mixture is stirred at 0° C. for an additional 40 min. To the mixture is added aqueous sodium bicarbonate (15 mL) and DCM (30 mL). The layers are separated and the organic layer is dried (MgSO4) and solvent is removed in vacuo to give 2-chloro-1-(4-cyclobutyl-piperazin-1-yl)-ethanone, which is used in the next step without further purification. 1H NMR (300 MHz, CDCl3) δ 4.07 (2H, s), 3.64 (2H, t), 3.52 (2H, t), 2.74 (1H, m), 2.36 (2H, t), 2.31 (2H, t), 1.72-2.08 (6H, m); MS (+VE) m/z 217.1 (M++1).

reactant | sodium bicarbonate | 15 mmol | C([O-])(O)=O.[Na+]
reactant | chloroacetyl bromide | 12 mmol | ClCC(=O)Br | C2H2BrClO
reactant | 1-cyclobutylpiperazine | 10 mmol | C1(CCC1)N1CCNCC1 | C8H16N2
reactant | sodium bicarbonate | 15 mL | C([O-])(O)=O.[Na+]
solvent | water | 5 mL | O | H2O
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-chloro-1-(4-cyclobutyl-piperazin-1-yl)-ethanone | ClCC(=O)N1CCN(CC1)C1CCC1 | C10H17ClN2O
